US05948819
Synthesis of 1-bromo-2-(tetrahydropyran-2-yloxy-methyl)benzene
Pyridinium p-toluenesulfonate (0.30 g) was added to a solution of 2-bromobenzylalcohol (25.00 g, 0.134 mol) in methylene chloride (100 ml), and the mixture was stirred at room temperature. 3,4-Dihydro-2H-pyran (16.86 g, 0.200 mol) was added thereto. The mixture was stirred at room temperature for 2 hours, and saturated aqueous sodium bicarbonate solution (200 ml) was added. The resulting mixture was extracted with methylene chloride and dried over anhydrous magnesium sulfate. Evaporation of the solvent gave the desired compound 1-bromo-2-(tetrahydropyran-2-yloxy-methyl)benzene (36.00 g, 99.3%) as an oil.

reactant | 2-bromobenzylalcohol | 0.134 mol, 25.00 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | 3,4-Dihydro-2H-pyran | 0.200 mol, 16.86 g | O1CCCC=C1 | C5H8O
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | Pyridinium p-toluenesulfonate | 0.30 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | 1-bromo-2-(tetrahydropyran-2-yloxy-methyl)benzene | 36.00 g, 99.3% | BrC1=C(C=CC=C1)COC1OCCCC1 | C12H15BrO2
